US05051422
N-[[4-(3,5-Dimethoxyphenyl)-1-(phenylmethyl)piperazin-2-yl]methyl]-4-[(ethylsulfonyl)amino]benzenesulfonamide
In a manner similar to Preparation 3, react 4-(3,5-dimethoxyphenyl)-1-(phenylmethyl)-2-piperazinemethanamine with 4-[(ethylsulfonyl)amino]benzenesulfonyl chloride to obtain the title compound.

reactant | 4-(3,5-dimethoxyphenyl)-1-(phenylmethyl)-2-piperazinemethanamine | COC=1C=C(C=C(C1)OC)N1CC(N(CC1)CC1=CC=CC=C1)CN | C20H27N3O2
reactant | 4-[(ethylsulfonyl)amino]benzenesulfonyl chloride | C(C)S(=O)(=O)NC1=CC=C(C=C1)S(=O)(=O)Cl | C8H10ClNO4S2
product | N-[[4-(3,5-Dimethoxyphenyl)-1-(phenylmethyl)piperazin-2-yl]methyl]-4-[(ethylsulfonyl)amino]benzenesulfonamide | COC=1C=C(C=C(C1)OC)N1CC(N(CC1)CC1=CC=CC=C1)CNS(=O)(=O)C1=CC=C(C=C1)NS(=O)(=O)CC | C28H36N4O6S2
